US07067517B2
Methyl-phenyl-carbamic acid 4-(3-pyridin-3-yl-acryloyl)-phenyl ester
The title product was prepared from 1-(4-hydroxy-phenyl)-3-pyridin-3-yl-prop-2-en-1-one and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC (56%, off-white solid). HPLC-MS: m/z=359.0 (M+1); Rt: 3.27 min.

reactant | 1-(4-hydroxy-phenyl)-3-pyridin-3-yl-prop-2-en-1-one | OC1=CC=C(C=C1)C(C=CC=1C=NC=CC1)=O | C14H11NO2
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 4-(3-pyridin-3-yl-acryloyl)-phenyl ester | N1=CC(=CC=C1)C=CC(=O)C1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C22H18N2O3
